US04518596
8-Methylthio-4-morpholino-2-piperazino-pyrimido-[5,4-d]-pyrimidine
1.5 gm (0.004 mol) of 2-(N-formyl-piperazino)-8-methylthio-4-morpholino-pyrimido-[5,4-d]-pyrimidine (m.p.: 205°-207° C.) were dissolved in 200 ml of absolute ethanol. After addition of 10 ml of ethanolic hydrochloric acid, the solution was refluxed for 20 minutes. The solvent was then evaporated in vacuo, and the residue was taken up in about 50 ml of water. The resulting solution of the hydrochloride was adjusted to about pH 10, whereby the free base was obtained as an initially oily precipitate which soon solidified. The precipitate was suction-filtered off, washed well with water and dried.

reactant | 2-(N-formyl-piperazino)-8-methylthio-4-morpholino-pyrimido-[5,4-d]-pyrimidine | 0.004 mol, 1.5 gm | C(=O)N1CCN(CC1)C=1N=C(C2=C(N1)C(=NC=N2)SC)N2CCOCC2 | C16H21N7O2S
reactant | hydrochloric acid | 10 ml | Cl | ClH
solvent | ethanol | 200 ml | C(C)O | C2H6O
product | 8-Methylthio-4-morpholino-2-piperazino-pyrimido-[5,4-d]-pyrimidine | CSC1=NC=NC2=C1N=C(N=C2N2CCOCC2)N2CCNCC2 | C15H21N7OS
